US09359353B2
To a cooled (0° C.), stirred solution of (S)-5-oxopyrrolidine-2-carboxamide (70 gm, 0.546 mol) in dimethylformamide (700 ml), triethylamine (TEA) (164.5 gm, 1.6 mol) was added in one lot. After stirring for 5 minutes Boc anhydride [(Boc)2O] (225 gm, 1.031 mol) was added, followed by the addition of DMAP (6.7 gm, 0.0549 mol). Stirring was continued further for 3 hours, and the completion of the reaction was monitored by thin layer chromatography. The solvent was evaporated under reduced pressure, the residue was leached with diethyl ether (350 ml) and the same procedure repeated with additional diethyl ether (600 ml). The separated solid was filtered under suction and the residue washed with fresh diethyl ether (2×35 ml). The solid was dried at 2 mm Hg, at 45° C. for 2 hour, to obtain 102 gm of (S)-tert-butyl 2-carbamoyl-5-oxopyrrolidine-1-carboxylate as white solid in 82% yield.

reactant | (S)-5-oxopyrrolidine-2-carboxamide | 0.546 mol, 70 gm | O=C1CC[C@H](N1)C(=O)N | C5H8N2O2
reactant | triethylamine | 1.6 mol, 164.5 gm | C(C)N(CC)CC | C6H15N
reactant | Boc anhydride | 1.031 mol, 225 gm | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
catalyst | DMAP | 0.0549 mol, 6.7 gm | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-tert-butyl 2-carbamoyl-5-oxopyrrolidine-1-carboxylate | 102 gm, 82% yield | C(N)(=O)[C@H]1N(C(CC1)=O)C(=O)OC(C)(C)C | C10H16N2O4
